Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Advil / vancomycin
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is an ___ with a history of OA, DM2, and 
questionable CHF who is presenting from SNF with 2 days of 
progressive dyspnea and hypoxia concerning for heart failure. 

She had a chest xray at the living facility yesterday, per 
report significant for pulmonary vascular congestion. She was 
transferred to ___ today for further evaluation after she 
developed hypoxia to the ___ on room air. She arrives to ___ 
on a NRB but was soon transitioned to BiPAP due to respiratory 
distress. 

She denies chest pain, coughing, production, abdominal pain, 
nausea, emesis, diarrhea. No weight gain, no polyuria. No 
dysuria. No peripheral swelling. She does complain of severe 
pain to the left knee that has been ongoing for 'some time'. 

In the ED initial vitals were: 3 96.0 94 158/99 30 92% Nasal 
Cannula 
EKG:  
Labs/studies notable for: Cr 1.6, BNP 12457, WBC 19.7
Patient was given:  
___ 14:56 IV Furosemide 20 mg   
___ 18:04 IV CeftriaXONE  
___ 20:26 IV Furosemide 40 mg   
___ 20:26 IV Furosemide 20 mg   
___ 20:27 IV CeftriaXONE 1 g   
___ 22:24 IV Furosemide 40 mg   
___ 23:15 IV Furosemide 40 mg   
 

On arrival to the CCU patient's breathing was unlabored. She 
verified the above information, and explained that she was 
thirsty and tired. 

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope, or presyncope.  
On further review of systems, denies fevers or chills. Denies 
exertional buttock or calf pain. All of the other review of 
systems were negative.  

 
Past Medical History:
- Diabetes Type 2
- Hypertension 
- Heart murmur (per patient report)
- Arthritis 
- GERD
- Atopic dermatitis
- Hearing loss
- Chronic venous insufficiency
 
Surgical History:
- Mastoidectomy  
- Hip surgery  
- Neck surgery 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  Her father had lung cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: T97.6 BP116/60 HR98 RR27 O2 SAT 99% nasal cannula  
GENERAL: Well developed, well nourished wearing shovel face 
mask. Oriented x3. 
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma. Crusting around the eyes bilaterally
NECK: Supple. No appreciable JVP.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs, 
or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. Mild crackles at the 
bases. Decreased breath sounds bilaterally
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. Patient would not allow palpation of the R 
knee, R lower extremity approximately 2 inches shorter than LLE
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM:
=======================
PHYSICAL EXAMINATION:  
VS: T98.0 BP100-120/50-70 HR60-70 RR16 90-94%RA 85.1kg bed 
weight
I/O: 0/incont, 760/incont
GENERAL: Well developed, well nourished female lying supine in 
no acute distress
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma. Crusting around the eyes bilaterally
NECK: Supple. JVP 2cm above clavicle 45 degrees.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs, 
or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. Refuses posterior 
auscultation, anterior/lateral auscultation clear.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. +ace bandage wrapping L knee w/ heat pack. 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 02:37PM BLOOD WBC-19.7*# RBC-3.82* Hgb-11.7 Hct-35.1 
MCV-92 MCH-30.6 MCHC-33.3 RDW-14.8 RDWSD-48.8* Plt ___
___ 02:37PM BLOOD Neuts-84* Bands-1 Lymphs-9* Monos-5 Eos-0 
Baso-0 ___ Metas-1* Myelos-0 AbsNeut-16.75* AbsLymp-1.77 
AbsMono-0.99* AbsEos-0.00* AbsBaso-0.00*
___ 02:37PM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-OCCASIONAL Microcy-NORMAL 
Polychr-OCCASIONAL Ovalocy-OCCASIONAL Burr-OCCASIONAL
___ 01:22AM BLOOD ___ PTT-25.0 ___
___ 02:37PM BLOOD Glucose-285* UreaN-30* Creat-1.6* Na-135 
K-4.6 Cl-97 HCO3-19* AnGap-24*
___ 02:37PM BLOOD CK(CPK)-114
___ 01:22AM BLOOD ALT-18 AST-28 CK(CPK)-107 AlkPhos-131* 
TotBili-1.2
___ 02:37PM BLOOD CK-MB-7 cTropnT-0.27* ___
___ 01:22AM BLOOD CK-MB-6 cTropnT-0.20*
___ 01:22AM BLOOD Calcium-9.1 Phos-3.4 Mg-1.9
___ 01:38AM BLOOD Lactate-3.3*
___ 02:55PM URINE Color-Yellow Appear-Hazy Sp ___
___ 02:55PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.5 Leuks-LG
___ 02:55PM URINE RBC-3* WBC-40* Bacteri-MANY Yeast-NONE 
Epi-<1
___ 02:55PM URINE CastHy-18*

DISCHARGE LABS:
==============
___ 07:05AM BLOOD WBC-7.9 RBC-3.16* Hgb-9.7* Hct-31.2* 
MCV-99* MCH-30.7 MCHC-31.1* RDW-16.7* RDWSD-57.7* Plt ___
___ 07:05AM BLOOD Glucose-169* UreaN-41* Creat-2.3* Na-141 
K-4.4 Cl-100 HCO3-23 AnGap-22*
___ 08:32AM BLOOD ALT-20 AST-30 LD(LDH)-463* AlkPhos-152* 
TotBili-1.1
___ 07:05AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.6

STUDIES/REPORTS:
===============
___ CXR:
Diffuse bilateral interstitial abnormality throughout the lungs. 
 This could be due to interstitial edema though chronic 
underlying interstitial process or atypical infection are 
possible.  No confluent consolidation.

___ Echocardiogram:
The left atrium is normal in size. No thrombus/mass is seen in 
the body of the left atrium. No atrial septal defect or patent 
foramen ovale is seen by 2D, color Doppler or saline contrast 
with maneuvers. Left ventricular wall thicknesses and cavity 
size are normal. Regional left ventricular wall motion is 
normal. Left ventricular systolic function is hyperdynamic 
(EF>75%). No masses or thrombi are seen in the left ventricle. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. There is abnormal septal 
motion/position. The diameters of aorta at the sinus, ascending 
and arch levels are normal. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Trivial mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion.   

___ Lower Extremity Doppler Ultrasound:
No evidence of deep venous thrombosis in the right or left lower 
extremity veins.  Nonvisualized left popliteal vein and calf 
veins due to body habitus and patient refusal.

___ CTA:
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Diffuse ground-glass opacity within the lungs, consistent 
with alveolar 
pulmonary edema.  Superimposed pneumonia cannot be excluded. 
3. Moderate hiatal hernia. 
4. Central pneumobilia.  Correlate clinically with past history 
of 
sphincterotomy. 

___ CXR:
No evidence of pneumonia

MICROBIOLOGY:
============
___ BLOOD CULTURE: pending
___ URINE CULTURE:
URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   0.5 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ is an ___ with a history of OA, DM2, and 
diastolic  HF who is presenting from ___ with 2 days of 
progressive dyspnea and hypoxia concerning for acute onset heart 
failure, pneumonia, and also with Klebsiella UTI: 

# Hypoxic respiratory failure
# Acute exacerbation diastolic heart failure
# Community Acquired Pneumonia
Patient presented with worsening dyspnea and respiratory 
distress requiring BiPAP in the ED. BNP was elevated at ___, 
CXR suggestive of pulmonary edema also concerning for pneumonia. 
 CTA and LENIs negative for clot/PE. Echo with PA hypertension. 
Hyperdynamic left ventricle with EF >75%. She was diuresed with 
IV Lasix with improvement in symptoms and improvement of 
pulmonary vascular congestion on imaging. She was started on 
ceftriaxone and switched to Levofloxacin for a total 7 day 
course. (Day 1 = ___, Day 7 = ___. However, given patient's 
renal function her last dose was 750 mg levofloxacin on ___, so 
did not require dosing on ___ due to Q48H dosing.

#Proliferative Normocytic Anemia: Admission Hbg 11.9 which 
dropped to 9.1 on AM of ___.  Reticulocyte index appropriate.  
No acute evidence of blood loss. Hemolysis labs positive. Coombs 
negative. Could be medication side effect (CTX) vs. viral vs. 
mycoplasma. Hb on discharge 9.7, stable.

#KLEBSIELLA UTI: Patient presented with leukocytes, nitrites, 
and WBCs in UA concerning for UTI. Also had leukocytosis. 
Received one dose of ceftriaxone in the ED. Started ceftriaxone 
in ED (Day 1 = ___. Urine cultures were positive for 
klebsiella UTI. Antibiotics were narrowed to Levofloxacin. (Day 
1 = ___, Day ___ = ___. However, given patient's renal function 
her last dose was 750 mg levofloxacin on ___, so did not require 
dosing on ___ due to Q48H dosing.

___: Patient presented with a Cr of 1.6. Unclear baseline. Per 
OMR, her Cr in ___ was 1.2. Likely poor perfusion to kidneys 
given diastolic HF exacerbation vs. CKD. Bump could be secondary 
to dye load from CTA. There also ___ be a component of 
over-diuresis. Cr on discharge 2.3

#Type 2 Diabetes. Glargine 20U bedtime. Insulin sliding scale  

# Knee Pain: Patient has chronic left knee pain for many years. 
Has long standing history of polyarthritis thought to be 
secondary to DJD. Continued home Tramadol 50mg BID, with 
Tramadol for breakthrough pain. This dose was decreased to 25mg 
with the ___. LENIs negative for DVT, although limited due to 
patient pain. Patient responded well to ice packs/hot packs.

#Neuro: Continued home donepezil

#GERD: Continued home omeprazole

TRANSITIONAL ISSUES: 
====================
# Patient previously on Lasix for ___ edema but this was held on 
discharge as she was euvolemic and had ___. Please restart if 
needed as an outpatient.
# Patient's tramadol was decreased to 25mg BID because of ___. 
# Patient with ___, stabilized on discharge with Cr 2.3. Please 
check creatinine and electrolytes ___ and on future dates as 
needed to ensure resolution. 
# CONTACT/HCP: ___ ___ 
# Code status - DNI, ok to do one round of CPR per patient's 
preferences. Please continue to address code status as 
outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Furosemide 80 mg PO DAILY 
4. GlyBURIDE 2.5 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. TraMADol 50 mg PO BID 
7. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
8. Donepezil 10 mg PO QHS 
9. Bisac-Evac (bisacodyl) 10 mg rectal DAILY:PRN 
10. Loratadine 10 mg PO DAILY 
11. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
12. Ketoconazole Shampoo 1 Appl TP ASDIR 
13. nystatin 100,000 unit/gram topical DAILY:PRN 
14. Potassium Chloride 20 mEq PO DAILY 
15. GuaiFENesin 20 mL PO Q8H:PRN cough 
16. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
17. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
18. Glargine 18 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
2.  Metoprolol Tartrate 12.5 mg PO BID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0 
3.  Glargine 18 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin 
4.  TraMADol 25 mg PO BID  
5.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
We decreased the dose of tramadol because of your decrease in 
kidney function.  
6.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
7.  Aspirin 81 mg PO DAILY  
8.  Bisac-Evac (bisacodyl) 10 mg rectal DAILY:PRN  
9.  Donepezil 10 mg PO QHS  
10.  GlyBURIDE 2.5 mg PO DAILY  
11.  GuaiFENesin 20 mL PO Q8H:PRN cough  
12.  Ketoconazole Shampoo 1 Appl TP ASDIR  
13.  Loratadine 10 mg PO DAILY  
14.  Milk of Magnesia 30 mL PO DAILY:PRN constipation  
15.  nystatin 100,000 unit/gram topical DAILY:PRN  
16.  Omeprazole 20 mg PO DAILY  
17.  Potassium Chloride 20 mEq PO DAILY  
18.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID  
19.  Vitamin D 1000 UNIT PO DAILY  
20. HELD- Furosemide 80 mg PO DAILY  This medication was held. 
Do not restart Furosemide until directed by your doctor.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Klebsiella UTI
Community Acquired Pneumonia
Acute Kidney Injury

SECONDARY DIAGNOSIS: 
diastolic heart failure exacerbation

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized at ___.

Why did you come to the hospital?
=================================
- You came to the hospital because you were having trouble 
breathing. We think this is because you have a large amount of 
fluid in your body that was causing stress on your heart. 
- We also found that you had a urinary tract infection and an 
infection in your lungs (pneumonia).

What did we do for you?
=======================
- We gave you medications to help remove some of the excess 
fluid from your body.
- We gave you antibiotics to treat your urinary tract infection 
and the pneumonia.  

What do you need to do?
=======================
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___